* gnetlist -g spice-sdb -o triangle-generator.net triangle-generator.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from LT1007CS.txt vvvvvvvv
* Version 2.0 Copyright © Linear Technology Corp. 10/19/04. All rights reserved.
*
.SUBCKT LT1007CS   3 2 7 4 6   ;(+IN -IN V+ V- OUT)
XLT1007CS 3 2 7 4 6 LT1007
.ENDS LT1007CS
*
*
.SUBCKT LT1007 3 2 7 4 6
RC1 7 80 663.15
RC2 7 90 663.15
Q1 80 2 10 QM1
Q2 90 3 11 QM2
*
C1 80 91 200E-12
RXC1 91 90 50
CXC1 91 90 500E-12
C2 8 98 4e-12
RXC2 8 98 4.00K
CXC2 1 98 2.7e-11
*
CIN 3 2 5E-12
DDM1 2 104 DM2
DDM3 104 3 DM2
DDM2 3 105 DM2
DDM4 105 2 DM2
RE1 10 12 -26.233
RE2 11 12 -26.233
IEE 12 4 7.503e-5
RE 12 0 2666000
CE 12 0 1.579E-12
GCM 0 8 12 0 7.558E-10
GA 8 0 80 90 0.001508
R2 8 0 100000
GB 1 0 8 0 1917.6
RO2 1 0 69
*
RS 1 6 1
ECL 18 0 1 6 28.28
GCL 0 8 20 0 1
RCL 20 0 1E3
D1 18 20 DM1
D2 20 18 DM1
*
D3A 131 70 DM3
D3B 13 131 DM3
GPL 0 8 70 7 1
VC 13 6 3.0909
RPLA 7 70 1E4
RPLB 7 131 1E5
D4A 60 141 DM3
D4B 141 14 DM3
GNL 0 8 60 4 1
VE 6 14 3.0909
RNLA 60 4 1E4
RNLB 141 4 1E5
*
IP 7 4 0.002625
DSUB 4 7 DM2
* MODELS
.MODEL QM1 NPN(IS=8e-16 BF=1785.7)
.MODEL QM2 NPN(IS=8.0062E-16 BF=4166.7)
.MODEL DM1 D(IS=1e-19)
.MODEL DM2 D(IS=8e-16)
.MODEL DM3 D(IS=1e-20)
.ENDS LT1007
*
*^^^^^^^^  End of included SPICE model from LT1007CS.txt ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
R 0 OUT 1k  
C1 5 OUT 10n  
R5 4 5 100k  
XU2 3 5 1 0 OUT LT1007
R4 4 2 100k  
R3 OUT 2 47k  
R2 0 3 1k  
R1 3 1 1k  
XU1 2 3 1 0 4 LT1007
V1 1 0 10
.end
